US05234917
N-[{2-n-Butyl-1-(2-chlorophenyl)methyl-1H -imidazol-5-yl}methylcarbonyl]-D-phenylalanine
The procedure of Example 12 (ii-iii) was followed using D-phenylalanine methyl ester hydrochloride in place lycine methyl ester hydrochloride. The intermediate N-[{2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5 -yl}methylcarbonyl]-D-phenylalanine methyl ester was a solid; mp 179°-181° C. (from methanol/ethyl acetate). The title compound was a solid; mp 178°-181° C. (from methanol/ethyl acetate).

reactant | D-phenylalanine methyl ester hydrochloride | Cl.COC([C@H](N)CC1=CC=CC=C1)=O
reactant | N-[{2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5 -yl}methylcarbonyl]-D-phenylalanine methyl ester | COC([C@H](NC(=O)CC1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC)CC1=CC=CC=C1)=O | C26H30ClN3O3
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | N-[{2-n-Butyl-1-(2-chlorophenyl)methyl-1H -imidazol-5-yl}methylcarbonyl]-D-phenylalanine | C(CCC)C=1N(C(=CN1)CC(=O)N[C@H](CC1=CC=CC=C1)C(=O)O)CC1=C(C=CC=C1)Cl | C25H28ClN3O3
